US09163008B2
To a mixture of the (S)-methyl 3-amino-2-hydroxypropanoate hydrochloride (0.333 g, 2.14 mmol) in acetonitrile (10 mL) was added 2,6-dichloropyrimidine-4-carboxamide (0.385 g, 2.01 mmol) and iPr2NEt (0.77 mL, 4.4 mmol). The mixture was heated at 50° C. overnight then cooled. The precipitated solid was filtered off, rinsed once with 2 mL acetonitrile, and air-dried to give (S)-methyl 3-((6-carbamoyl-2-chloropyrimidin-4-yl)amino)-2-hydroxypropanoate as a pale peach-colored powder (0.421 g, 1.53 mmol, 76% yield). LC/MS: m/z=275.1 [M+H]+.

reactant | (S)-methyl 3-amino-2-hydroxypropanoate hydrochloride | 2.14 mmol, 0.333 g | Cl.NC[C@@H](C(=O)OC)O
reactant | 2,6-dichloropyrimidine-4-carboxamide | 2.01 mmol, 0.385 g | ClC1=NC(=CC(=N1)C(=O)N)Cl | C5H3Cl2N3O
reactant | iPr2NEt | 4.4 mmol, 0.77 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (S)-methyl 3-((6-carbamoyl-2-chloropyrimidin-4-yl)amino)-2-hydroxypropanoate | 1.53 mmol, 0.421 g, 76% yield | C(N)(=O)C1=CC(=NC(=N1)Cl)NC[C@@H](C(=O)OC)O | C9H11ClN4O4
